US06538015B1
A solution containing 0.4 ml of lithium aluminium hydride (1M solution in THF) in 2 ml of anhydrous tetrahydrofuran at 0° C. under nitrogen was treated dropwise with a solution of 154 mg of 5-(3,5-Dichloro-phenylsulfanyl)-1-isopropyl-4-pyridin-4-ylmethyl-1H-pyrazole-3-carboxylic acid ethyl ester in 2 ml of anhydrous tetrahydrofuran. The mixture was stirred at 0° C. for 0.5 h then treated with 0.012 ml of water, 0.012 ml of 2N sodium hydroxide solution and then 0.018 ml of water. The mixture was stirred for 0.5 h at 0° C.; the mixture was filtered and then the solvent removed. The residue was purified by flash chromatography on silica gel using dichloromethane/methanol (1:19) for the elution to give 90 mg of 5-(3,5dichlorophenylthio)-1-isopropyl-4-[(4-pyridyl)methyl]-1H -pyrazole-3-methanol as a white gum. Mass spectrum (ESI) m/z 408 [M+H]+. 1H NMR (DMSO) 1.30 (d, 6H), 3.90 (s, 2H), 4.55 (d, 2H), 4.72 (m, 1H), 5.30 (t, 1H), 6.85 (s, 2H), 7.15 (d, 2H), 7.35 (s, 1H), 8.30 (d, 2H).

reactant | lithium aluminium hydride | 1M, 0.4 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 5-(3,5-Dichloro-phenylsulfanyl)-1-isopropyl-4-pyridin-4-ylmethyl-1H-pyrazole-3-carboxylic acid ethyl ester | 154 mg | C(C)OC(=O)C1=NN(C(=C1CC1=CC=NC=C1)SC1=CC(=CC(=C1)Cl)Cl)C(C)C | C21H21Cl2N3O2S
reactant | water | 0.012 ml | O | H2O
reactant | sodium hydroxide | 2N, 0.012 ml | [OH-].[Na+]
reactant | water | 0.018 ml | O | H2O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 5-(3,5dichlorophenylthio)-1-isopropyl-4-[(4-pyridyl)methyl]-1H -pyrazole-3-methanol | 90 mg | ClC=1C=C(C=C(C1)Cl)SC1=C(C(=NN1C(C)C)CO)CC1=CC=NC=C1 | C19H19Cl2N3OS
